US06608072B1
e) 4-(4Fluorophenyl)-2-(piperidin-4-yl)-5-(2(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole
4-(4-Fluorophenyl)-2-(1-ethoxycarbonylpiperidin-4-yl)-5-(2-(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole (2 g 3.7 mmol) is dissolved in CHCl3 (37 ml) and treated with Me3SiI (1.5 ml 11.1 mmol) at 60° C. for 5 h. A second portion of Me3SiI (0.75 ml 5.55 mmol ) was added and stirring continued for another 3 h at 60° C. The reaction mixture was combined with 6M HCl in propanol (15 ml), homogenized by vigorous stirring, poured on 2N NaOH and extracted twice with CH2Cl2. The combined organic phases were dried over Na2SO4, filtered, evaporated to dryness and purified by SiO2 chromatography (tert.butyl methyl ether/MeOH/NH3conc. 80/18/2) to yield the title compound (1.2 g 71%) as a white foam.

reactant | 4-(4-Fluorophenyl)-2-(1-ethoxycarbonylpiperidin-4-yl)-5-(2-(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole | 3.7 mmol, 2 g | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1CCN(CC1)C(=O)OCC | C30H31FN4O2S
reactant | Me3SiI | 11.1 mmol, 1.5 ml | [Si](C)(C)(C)I | C3H9ISi
reactant | Me3SiI | 5.55 mmol, 0.75 ml | [Si](C)(C)(C)I | C3H9ISi
reactant | HCl | 6M | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | CHCl3 | 37 ml | C(Cl)(Cl)Cl | CHCl3
solvent | propanol | 15 ml | C(CC)O | C3H8O
product | 4-(4Fluorophenyl)-2-(piperidin-4-yl)-5-(2(1-(S)-phenylethyl)amino-4-pyridinyl)thiazole | 1.2 g, 71% | FC1=CC=C(C=C1)C=1N=C(SC1C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C1CCNCC1 | C27H27FN4S
